US04772600
2-(4-Chlorophenyl)-N-cyclopentyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.0 g, 0.014 mole) and 1,1'-carbonyldiimidazole (2.27 g, 0.014 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Cyclopentylamine (2.38 g, 0.028 mole) was added and the reaction mixture was allowed to stir at room temperature overnight. The tetrahydrofuran was evaporated to dryness and the residue was treated with water. The solid was collected by filtration, washed with water, and dried under high vacuum overnight. The solid was recrystallized from isopropyl alcohol-ethanol, collected by filtration, washed with cold isopropyl alcohol, and dried under high vacuum over the weekend to give 3.67 g (74%) of crystals, mp 260°-261° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.014 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.014 mole, 2.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Cyclopentylamine | 0.028 mole, 2.38 g | C1(CCCC1)N | C5H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-cyclopentyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.67 g, 74% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CCCC1 | C19H19ClN4O
